US07915281B2
The method described in Part E of Example 12 was used to treat 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-methyl-1H-imidazo[4,5-c][1,5]naphthyridine (1.15 g, 3.20 mmol) with mCPBA (0.94 g of 75% pure material followed by 0.25 g) to provide 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-methyl-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine as a dark yellow solid.

reactant | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-methyl-1H-imidazo[4,5-c][1,5]naphthyridine | 3.20 mmol, 1.15 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C=NC=3C=CC=NC3C21)C | C20H14FN5O
reactant | mCPBA | 0.94 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-methyl-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C=[N+](C=3C=CC=NC3C21)[O-])C | C20H14FN5O2
